US07030128B2
7-tert-Butylimidazo[1,2-α]pyrimidine was coupled with 2-(6-bromopyridin-2-yl)-5-fluorobenzonitrile as described in Example 27 to give 2-[6-(7-tert-butylimidazo[1,2-α]pyrimidin-3-yl)pyridin-2-yl]-5-fluorobenzonitrile (0.235 g, 63%) as a white powder: δH (360 MHz, CDCl3) 1.43 (9H, s), 7.05 (1H, d, J 7), 7.37-7.73 (6H, m), 7.81 (1H, s), 7.85 (1H, dd, J 8 and 1), 8.75 (1H, d, J 7); m/z (ES+) 371 (M++H).

reactant | 7-tert-Butylimidazo[1,2-α]pyrimidine | C(C)(C)(C)C1=NC=2N(C=C1)C=CN2 | C10H13N3
reactant | 2-(6-bromopyridin-2-yl)-5-fluorobenzonitrile | BrC1=CC=CC(=N1)C1=C(C#N)C=C(C=C1)F | C12H6BrFN2
product | 2-[6-(7-tert-butylimidazo[1,2-α]pyrimidin-3-yl)pyridin-2-yl]-5-fluorobenzonitrile | 0.235 g, 63% | C(C)(C)(C)C1=NC=2N(C=C1)C(=CN2)C2=CC=CC(=N2)C2=C(C#N)C=C(C=C2)F | C22H18FN5
